US04326055
21.1 g of (6-chloro-7-amino-1,1,3,3-tetramethyl-5-indanyl) methyl ketone are introduced into 48 ml of concentrated sulphuric acid and, after the warming to 50° C., the mixture is treated slowly with 140 ml of distilled water. After cooling down to 0°-5° C., there is introduced dropwise into the mixture over a period of 45 minutes a solution of 5.5 g of sodium nitrite in 20 ml of water. The resulting cold mixture is introduced dropwise while stirring over a period of 2 hours into a solution, held at 70° C., of 60 ml of water and 60 ml of concentrated sulphuric acid. The mixture is cooled, then introduced into ice-water and extracted three times with ether. The organic phase is washed with a sodium chloride solution, dried over sodium sulphate and freed from solvent under reduced pressure. The residue is purified by adsorption on silica gel using hexane/ether (19:1) for the elution. The (6-chloro-7-hydroxy-1,1,3,3-tetramethyl-5-indanyl) methyl ketone obtained from the eluate melts at 78°-80° C. after recrystallisation from hexane/ether.

reactant | (6-chloro-7-amino-1,1,3,3-tetramethyl-5-indanyl) methyl ketone | 21.1 g | CC(=O)C=1C=C2C(CC(C2=C(C1Cl)N)(C)C)(C)C | C15H20ClNO
reactant | sulphuric acid | 48 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 5.5 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | water | 140 ml | O | H2O
product | (6-chloro-7-hydroxy-1,1,3,3-tetramethyl-5-indanyl) methyl ketone | CC(=O)C=1C=C2C(CC(C2=C(C1Cl)O)(C)C)(C)C | C15H19ClO2
